US09382246B2
1-Bromo-4-(1-(trifluoromethyl)cyclopropyl)benzene (1.00 g, 3.77 mmol) was mixed with tert-butyl carbamate (1.77 g, 15.1 mmol), Pd2(dba)3 (350 mg, 0.38 mmol), XantPhos (650 mg, 1.13 mmol), fine-powder cesium carbonate (7.40 g, 22.6 mmol) in 80 mL dioxane. The mixture was degassed using nitrogen stream for 5 min, and stirred in 115° C. bath under nitrogen atmosphere for 7 hours. It was cooled to RT, diluted with 200 mL EtOAc, well stirred, filtered using ChemGlass OP-6602-12 disposable funnel, concentrated in vacuo, and subjected to silica flash column using 0 to 1% MeOH in DCM to isolate tert-butyl 4-(1-(trifluoromethyl)cyclopropyl)phenylcarbamate. It was treated with 1:1 DCM/TFA (10 mL/10 mL) at RT for 10 min, concentrated in vacuo, taken into chloroform, washed with 1N NaOH (aq) and water, dried, concentrated and subjected to silica flash column to isolate 4-(1-(trifluoromethyl)cyclopropyl)aniline (330) (300 mg, 40%).

reactant | 1-Bromo-4-(1-(trifluoromethyl)cyclopropyl)benzene | 3.77 mmol, 1.00 g | BrC1=CC=C(C=C1)C1(CC1)C(F)(F)F | C10H8BrF3
reactant | tert-butyl carbamate | 15.1 mmol, 1.77 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | XantPhos | 1.13 mmol, 650 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 22.6 mmol, 7.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.38 mmol, 350 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-(1-(trifluoromethyl)cyclopropyl)phenylcarbamate | FC(C1(CC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)(F)F | C15H18F3NO2
